US07019166B2
2,4,5-Trimethylmandelic Acid
222 g of 45% sodium hydroxide solution and 400 ml of water are initially charged and heated to reflux. Within approx. 90 minutes, 115.6 g of 2,2-dichloro-1-(2,4,5-trimethylphenyl)ethanone are added dropwise. Subsequently, the reaction mixture is boiled for a further hour, then admixed at 45° C. with 400 ml of water and at room temperature with 400 ml of MTBE, the phases are separated, the aqueous phase is extracted once again with 300 ml of MTBE, and is then acidified with sulfuric acid and the precipitated solid is filtered off with suction. The solid is then washed three times with 50 ml each time of water and then dried. 102.4 g of white solid are obtained which, by GC, contains 91.9% of target product=94.1 g=96.9% of theory.

reactant | sodium hydroxide | 222 g | [OH-].[Na+]
reactant | water | 400 ml | O | H2O
reactant | 2,2-dichloro-1-(2,4,5-trimethylphenyl)ethanone | 115.6 g | ClC(C(=O)C1=C(C=C(C(=C1)C)C)C)Cl | C11H12Cl2O
reactant | water | 400 ml | O | H2O
solvent | MTBE | 400 ml | CC(C)(C)OC | C5H12O
product | 2,4,5-Trimethylmandelic Acid | 102.4 g | CC1=C(C(C(=O)O)O)C=C(C(=C1)C)C | C11H14O3
